US09145357B2
Step (8-1): Production of (4-ethylphenyl) Carbamate
The same method as step (6-1) of Example 6 was carried out with the exception of using 39.0 kg of 4-ethyl phenol (Tokyo Chemical Industry Co., Ltd., Japan) instead of 4-phenyl phenol, using 1057 g of urea and carrying out the reaction for 12 hours. When a portion of the reaction liquid was removed and analyzed by liquid chromatography, the formation of (4-ethylphenyl) carbamate was confirmed. The yield was about 88% based on the charged amount of urea.

reactant | 4-ethyl phenol | 39.0 kg | C(C)C1=CC=C(C=C1)O | C8H10O
reactant | urea | 1057 g | NC(=O)N | CH4N2O
product | (4-ethylphenyl) Carbamate | yield was about 88% | C(N)(OC1=CC=C(C=C1)CC)=O | C9H11NO2
